US05409943
(b) N-[3-(2-Chloro-6-fluorobenzyloxy)-5-chloropyrid-2-yl]-N'-(4chlorophenyl)thiourea
A mixture of 2-amino-3-(2-chloro-6-fluorobenzyloxy)-5-chloropyridine (0.82 g, 0.0028 mol), 4-chlorophenyl isothiocyanate (0.56 g, 0.0033 mol) and toluene (10 ml) was heated under reflux for 16 hours, then cooled and diluted with ether to induce crystallisation of the product, which was triturated with ethanol. Yield 0.68 g (54%), m.p. 158°-160 ° C.

reactant | 2-amino-3-(2-chloro-6-fluorobenzyloxy)-5-chloropyridine | 0.0028 mol, 0.82 g | NC1=NC=C(C=C1OCC1=C(C=CC=C1F)Cl)Cl | C12H9Cl2FN2O
reactant | 4-chlorophenyl isothiocyanate | 0.0033 mol, 0.56 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | N-[3-(2-Chloro-6-fluorobenzyloxy)-5-chloropyrid-2-yl]-N'-(4chlorophenyl)thiourea | ClC1=C(COC=2C(=NC=C(C2)Cl)NC(=S)NC2=CC=C(C=C2)Cl)C(=CC=C1)F | C19H13Cl3FN3OS
